US05057513
A mixture of 2-phenylmethyl-1-carboxymethylenecyclohexane (3.0 g) and 2-aminothiophenol (5.0 g) in N,N-dimethylformamide (3 ml) was refluxed for 20 hours under nitrogen atmosphere. The mixture was cooled to 0° C. and diluted with ethyl acetate (30 ml) and the mixture was washed with 1N hydrochloric acid (30 ml), water (30 ml), a saturated aqueous solution of sodium bicarbonate (30 ml) and brine (30 ml). The organic layer was dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diethyl ether to give 2'-phenylmethyl-4,5-dihydro-4-oxospiro[1,5-benzothiazepine-2(3H), 1'-cyclohexane] (2.2 g).

reactant | 2-phenylmethyl-1-carboxymethylenecyclohexane | 3.0 g | C1(=CC=CC=C1)CC1C(CCCC1)=CC(=O)O | C15H18O2
reactant | 2-aminothiophenol | 5.0 g | NC1=C(C=CC=C1)S | C6H7NS
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2'-phenylmethyl-4,5-dihydro-4-oxospiro[1,5-benzothiazepine-2(3H), 1'-cyclohexane] | 2.2 g | C1(=CC=CC=C1)CC1C2(CCCC1)SC1=C(NC(C2)=O)C=CC=C1 | C21H23NOS
